US04022833
In a manner similar to that of Example 22, methylation of N,N'-(1,6-hexylene)-bis[2-hydroxyoctylamine] (35 g.) and treatment of the resulting product (b.p. 177°-182° C./1 mm.) with hydrogen bromide gave N,N'-(1,6-hexylene)-bis[N-methyl-2- hydroxyoctylamine] (I: R= CH3 (CH2)5, R' = CH3, X= (CH2)6, Z= H) dihydrobromide (19.1 g., m.p. 167.0°-158.8° C.).

reactant | hydrogen bromide | Br | BrH
reactant | N,N'-(1,6-hexylene)-bis[N-methyl-2- hydroxyoctylamine] | C(CCCCCN(C)CC(CCCCCC)O)N(C)CC(CCCCCC)O | C24H52N2O2
product | N,N'-(1,6-hexylene)-bis[2-hydroxyoctylamine] | 35 g | C(CCCCCNCC(CCCCCC)O)NCC(CCCCCC)O | C22H48N2O2
